US06673818B2
Step 4: Preparation of 5-(bromomethyl)-1,3-difluoro-2-(methylthio)benzene
A mixture of 5-(chloromethyl)-1,3-difluoro-2-(methylthio)benzene (21.3 g, 0.10 mol), lithium bromide (15 g, 0.17 mol), and acetone (200 mL) was heated and held at reflux for 18 hours. The cool mixture was poured into water and extracted with dichloromethane (1×200 mL, 2×50 mL). The combined extracts were dried using magnesium sulfate, and concentrated. The residue was dissolved in acetone (200 mL), lithium bromide (30 g, 0.34 mol) and sodium bromide (20 g, 0.19 mol) were added and the mixture heated and held at 5 reflux for 42 hours. The mixture was cooled, added to water, and extracted with dichloromethane (1×150 mL, 1×50 mL). The combined extracts were washed with dilute sodium chloride, dried with magnesium sulfate, and concentrated. The 5-(bromomethyl)-1,3-difluoro-2-(methylthio)benzene was purified using silica gel chromatography using hexanes as a yellow solid (20.5 g, 80%). 1H NMR (CDCl3/400 MHz) 6.92-6.95 (m, 2H), 4.37 (s, 2H), 2.45 (s, 3H). HRMS m/z 251.9432 (M+, calcd 251.9420).

reactant | 5-(chloromethyl)-1,3-difluoro-2-(methylthio)benzene | 0.10 mol, 21.3 g | ClCC=1C=C(C(=C(C1)F)SC)F | C8H7ClF2S
reactant | lithium bromide | 0.17 mol, 15 g | [Br-].[Li+]
reactant | acetone | 200 mL | CC(=O)C | C3H6O
reactant | lithium bromide | 0.34 mol, 30 g | [Br-].[Li+]
reactant | sodium bromide | 0.19 mol, 20 g | [Br-].[Na+]
solvent | water | O | H2O
product | 5-(bromomethyl)-1,3-difluoro-2-(methylthio)benzene | BrCC=1C=C(C(=C(C1)F)SC)F | C8H7BrF2S
